US07435823B2
Preparation of tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate
To a mixture of tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate (500 mg, 1.9 mmol) in MeOH (25 mL), under nitrogen, Pd/C (wet w/MeOH) was added and the atmosphere changed to hydrogen. The reaction mixture was stirred at RT for 3 h. The reaction mixture was filtered through a pad of celite and evaporated to give the title compound as a thick liquid.

reactant | tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate | 1.9 mmol, 500 mg | NC1=CC=C2C(CN(C2=C1)C(=O)OC(C)(C)C)(C)C | C15H22N2O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate tert-butyl 6-amino-3,3-dimethylindoline-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)N)(C)C.NC1=CC=C2C(CN(C2=C1)C(=O)OC(C)(C)C)(C)C | 2C15H22N2O2
